Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Back pain
 
Major Surgical or Invasive Procedure:
___: T12 vertebrectomy, fusion T11-L2, anterior spacers x 
2, vertebroplasty x 2, autograft.
___: T11-L3 fusion, multiple thoracic and lumbar 
laminotomies, instrumentation T11-L3, vertebroplasty x 4, 
autograft and allograft, epidural catheter placement
___: Right sided PICC line
___: Left chest tube
 
History of Present Illness:
Mr. ___ is a ___ yo M with PMHx notable for new diagnosis 
of IgA MM diagnosed in the setting of compression fractures of 
T8, 11 and 12, now on bortezomib, dexamethasone and lenalidomide 
(started bortezomib/dex on ___ and lenalidomide ___ who 
is admitted to ___ in the setting of worsening back pain and 
concern for cord compression. 

Pt states that he was feeling well until approximately 6 weeks 
ago when he developed lower back pain. He initially thought this 
was related to muscle strain and was treated with muscle 
relaxant and ibuprofen without improvement. Approximately 2 
weeks ago he developed sudden onset severe low back pain while 
pumping gas at gas station that caused him to collapse. He was 
subsequently admitted to ___ from ___ for back pain. 
During that admission he was found to have compression fractures 
described above that were thought to be the cause of his back 
pain. His CBC was consistent with mild anemia, elevated calcium, 
Cr of 1.2 and SPEP showing IgA lambda with M spike of 1850 
mg/dL. Bone marrow biopsy revealed plasma cells comprising 80% 
of cellularity. Mr. ___ was discharged home where he 
followed up with ___ Oncology. He was started on Bortezomib/dex 
on ___ and then lenalidomide on ___.

After discharge home, pt reported that he was doing well until 2 
days prior to admission when he developed recurrent severe back 
pain, nausea and vomiting. His pain was so severe he was unable 
to get OOB. Denies any even minor trauma that may have 
precipitated the pain. Reports using his TLSO brace at home. No 
fevers, chills, bowel or bladder incontinence or saddle 
anesthesia. He was taking oxycodone and oxycontin at home for 
pain control. 

He presented to the ED for evaluation of his back pain where he 
had CT spine that revealed known compression fractures, T12 
retropulsion with severe canal stenosis and several bony 
demineralization throughout. Exam was notable for hyperreflexia 
without other focal neuro deficits. Ortho spine was consulted in 
the ED with recommendation for MRI of the spine and admission to 
Oncology. 

On the floor he described persistent back pain without new or 
worsening symptoms.    
 
Past Medical History:
___: New diagnosis of IgA Multiple Myeloma
 
Social History:
___
Family History:
Uncle and cousin with leukemia. No other family history of 
malignancy. Parents alive in ___, father with CVA several years 
ago. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
Vitals: 97.9, 113-120/72-90, 86-89, 96-99%RA 
Gen: cachetic, pleasant, A&O x 3  
HEENT: No conjunctival pallor. No icterus. MMM. OP clear.  
NECK: no JVD
LYMPH: No cervical or supraclav LAD
CV: Normocardic, regular. Normal S1,S2. No MRG.   
LUNGS: No incr WOB. CTAB. No wheezes, rales, or rhonchi.  
ABD: NABS. Soft, NT, ND.  
EXT: WWP. No ___ edema. 
SKIN: No rashes/lesions, petechiae/purpura ecchymoses.  
NEURO: A&Ox3. CN II-XII intact. ___ strength in bilateral upper 
and lower extremities. Sensation intact to light touch on all 
extremities. Reflexes notable for 3+ patellar and achilles 
bilaterally with clonus. 

DISCHARGE PHYSICAL EXAM 
=======================
Vitals: 98.7-99.0, 98-125/50-71, 63-105, 18, 96-100% on RA.
General: Thin appearing gentleman, does not appear in any acute 
distress, resting comfortably, pleasant affect. Has TLSO brace 
on. 
HEENT: Sclera anicteric, MMM  
CV: Regular rate and regular rhythm, no murmurs/rubs/gallops
Lungs: Breathing comfortably, no accessory muscle, minimally 
decreased breath sounds at bases on left lower lung field. 
Abdomen: Normoactive bowel sounds, abdomen soft non-tender, 
non-distended, no rebound or guarding.
Ext: Warm extremities, 2+ DP pulses, 2+ radial pulses, PICC line 
removed from right arm, ecchymoses on arms, no pitting edema.  
 
Pertinent Results:
LABS ON ADMISSION 
=================
___ 04:00PM BLOOD WBC-5.8 RBC-4.47* Hgb-14.1 Hct-38.7* 
MCV-87 MCH-31.6 MCHC-36.4* RDW-12.9 Plt ___
___ 04:00PM BLOOD Neuts-73.0* Lymphs-16.0* Monos-10.0 
Eos-0.8 Baso-0.2
___ 04:00PM BLOOD ___ PTT-27.8 ___
___ 04:00PM BLOOD Glucose-93 UreaN-16 Creat-1.0 Na-132* 
K-4.4 Cl-96 HCO3-22 AnGap-18
___ 04:00PM BLOOD Calcium-10.0 Phos-1.7*# Mg-2.6

DISCHARGE LABS
==============
___ 10:03AM BLOOD WBC-6.5 RBC-4.25* Hgb-12.4* Hct-37.0* 
MCV-87 MCH-29.1 MCHC-33.5 RDW-16.9* Plt ___
___ 10:03AM BLOOD Glucose-155* UreaN-11 Creat-0.6 Na-140 
K-4.2 Cl-108 HCO3-22 AnGap-14
___ 10:03AM BLOOD Calcium-9.1 Phos-4.0 Mg-2.2

PLEURAL FLUID ANALYSIS
======================
___ 03:36PM PLEURAL WBC-2100* ___ Polys-92* 
Lymphs-3* Monos-4* Meso-1*
___ 03:36PM PLEURAL TotProt-1.4 Glucose-112 LD(LDH)-655 
Cholest-29

OTHER NOTABLE LABS
==================
___ 06:42AM BLOOD PEP-ABNORMAL B ___ FreeLam-11.9 
Fr K/L-0.31 IgG-402* IgA-813* IgM-48

URINALYSIS
==========
___ 04:00PM URINE Color-Yellow Appear-Clear Sp ___
___ 04:00PM URINE Blood-MOD Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 04:00PM URINE RBC-22* WBC-5 Bacteri-NONE Yeast-NONE 
Epi-0
___ 04:00PM URINE Mucous-FEW

MICROBIOLOGY
============
___ 9:56 am MRSA SCREEN      Source: Nasal swab. 
**FINAL REPORT ___
MRSA SCREEN (Final ___:    No MRSA isolated. 

___ 4:00 pm BLOOD CULTURE      Source: Line-picc. 
**FINAL REPORT ___
Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 5:32 pm BLOOD CULTURE
**FINAL REPORT ___
Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 1:33 pm STOOL     CONSISTENCY: WATERY      Source: 
Stool. 
**FINAL REPORT ___
C. difficile DNA amplification assay (Final ___: Positive 
for toxigenic C. difficile by the Illumigene DNA amplification. 

___ 2:34 pm PLEURAL FLUID
**FINAL REPORT ___
GRAM STAIN (Final ___: 1+    (<1 per 1000X FIELD):   
POLYMORPHONUCLEAR LEUKOCYTES. NO MICROORGANISMS SEEN. 

FLUID CULTURE (Final ___:    NO GROWTH. 

ANAEROBIC CULTURE (Final ___:    NO GROWTH. 

#FLUID RECEIVED IN BLOOD CULTURE BOTTLES
**FINAL REPORT ___
Fluid Culture in Bottles (Final ___:    NO GROWTH. 

IMAGING
=======
___: CT T-SPINE WITHOUT CONTRAST
IMPRESSION:  
1.  Compared with prior exam from approximately 2 weeks prior 
there has been new complete collapse of the vertebral body of 
T12 with bony retropulsion resulting in severe spinal canal 
stenosis at this level. 
2.  Approximately 30% compression deformity at T8 and T11 is 
unchanged from prior. Mild spinal canal stenosis at the level of 
T11 is redemonstrated. 
3.  Severe and diffuse demineralization in keeping with known 
history of 
multiple myeloma.  
4.  Interval acute fracture of the medial left tenth rib. 

___: CT L-SPINE WITHOUT CONTRAST
IMPRESSION: 
1.  New compression deformity of L2 compared with exam from 
approximately 2 weeks prior. There is no retropulsion of bony 
fragments or spinal canal stenosis at these levels.   
2.  Unchanged superior endplate depression of L3 and compression 
deformity of L5 with minimal retropulsion and mild spinal canal 
stenosis at this level. 
3.  No significant degenerative changes and no evidence of 
spinal canal or neural foraminal narrowing allowing for 
limitations of CT.
4.  Severe bony demineralization in keeping with known history 
of multiple myeloma. 
5.  Incompletely characterized lesion off the upper pole of the 
left kidney with indeterminate Hounsfield units. Consider 
non-urgent ultrasound to more fully evaluate. 

___: MRI THORACIC AND LUMBAR SPINE
IMPRESSION:  
1.  In comparison with the prior examination, and there has been 
mild interval progression of the compression fracture at T12 
vertebral body, causing moderate to severe central spinal canal 
narrowing, no focal or diffuse lesions are noted throughout the 
thoracic spinal cord. 
2. Heterogeneous signal throughout the thoracic and lumbar 
vertebral bodies with minimal punctate areas of enhancement, 
which appears unchanged, suggestive of bone marrow infiltration 
from multiple myeloma. 
3. Minimal increased compression deformity at L2 vertebral body, 
with no 
significant retropulsion.  Unchanged L3 and L5 vertebral body 
fractures. 
4.  Degenerative changes appear unchanged at the level of L4/L5 
with disc 
bulging and mild retropulsion of the superior endplate of L5, 
causing moderate central canal narrowing and bilateral neural 
foraminal narrowing as described above. 

___: CHEST X-RAY (PORTABLE AP)
IMPRESSION:  
Small left apical pneumothorax is present with left-sided chest 
tube in place. Tip of endotracheal tube terminates 7.3 cm above 
the carinal and could be advanced for standard positioning. 
Cardiomediastinal contours are normal considering marked patient 
rotation. Lungs are grossly clear.

___: CHEST X-RAY (PORTABLE AP)
IMPRESSION:   
1. Left chest tube present, similar in position. No pneumothorax 
detected. 
2. There is minimal hazy opacity at the left lung base, slightly 
increased. This is non-specific in appearance and could 
represent atelectasis, parenchymal contusion, or early pneumonic 
infiltrate. Attention to this area on followup films is 
requested. 

___: CHEST (PORTABLE AP)
IMPRESSION:    
Large left pleural effusion has increased substantially since 
___. 
Consolidation in the right lower lobe is considerably larger 
also, probably worsening pneumonia. Vascular engorgement in the 
upper lobes and mediastinum suggest biventricular cardiac 
decompensation. Obscuration of the left heart border could be 
due to pleural effusion or new consolidation in the lingula. 

___: CHEST (PORTABLE AP)
Right PICC line tip is at the level of mid SVC. Widespread 
consolidations are unchanged. The was interval planned placement 
of the left pigtail with subsequent decrease in the left pleural 
effusion. There is small left apical pneumothorax present. 
  
Note is made of substantially distended stomach. 
  
Right lower lobe consolidation is extensive and might 
potentially represent a combination of pneumonia with 
atelectasis. 

___: T-SPINE X-RAY, L-SPINE X-RAY
The limited view of the chest demonstrate widespread parenchymal 

consolidations, highly concerning for multifocal infection, 
unchanged since the prior study. The appearance of the spine 
both thoracic and lumbar (lumbar spine is postsurgical) is 
unchanged but there is substantial interval development of bowel 
wall distension that might be consistent with ileus or 
obstruction. Dedicated assessment of the abdomen is highly 
recommended.

___: PORTABLE ABDOMEN X-RAY
Increasing dilation of air and stool-filled colon, without 
radiographic 
evidence of wall thickening to suggest toxic megacolon.  The 
presence of 
intra-abdominal free air cannot be evaluated on these supine 
views. However, if there is continued clinical concern, CT can 
be obtained.

___: CHEST X-RAY (PORTABLE AP)
IMPRESSION:    
Right PICC line tip is at the level of lower SVC. Pigtail 
catheter is in 
place.  Widespread parenchymal consolidations are unchanged. 
Overall the 
appearance is similar to previous examination except for 
interval distended of the stomach and progression of bowel 
distention. 

___: PORTABLE ABDOMEN X-RAY
IMPRESSION:    
As compared to ___ radiograph, diffuse colonic 
distention is 
relatively similar, with only minimal decrease in extent in the 
ascending 
colon and increase in the descending colon. The gas and stool 
are again 
demonstrated within the colon.  Scattered air-filled loops of 
small bowel are also present.  If free intraperitoneal air is 
suspected clinically, upright chest radiograph for left lateral 
decubitus abdominal view would be recommended. 

___: RENAL ULTRASOUND
IMPRESSION: 
1. Simple left renal cyst corresponds to the structure seen on 
the prior CT. 
2. Scant trace of ascites and trace right pleural effusion also 
noted. 

CYTOLOGY
========
___: PLEURAL FLUID
Diagnosis: Negative for malignant cells. Mesothelial cells and 
macrophages. 
 
Brief Hospital Course:
Mr. ___ is a ___ M with PMHx significant for newly 
diagnosed IgA lambda multiple myeloma who presented with 
worsening back pain in the setting of a known compression 
fracture found be hyperreflexic on exam with worsening 
retropulsion of T12 w/canal stenosis and cord compression on 
MRI.  Given that he had no weakness or sensory deficit, Ortho 
Spine (Dr. ___ felt no need for emergency surgery but 
patient elected to undergo surgery to correct the displaced 
vertebrae during this admission. While awaiting the surgery, he 
was treated with dexamethasone, antiemetics and pain control.
 
# Compression fracture/spinal cord compression:  CT of thoracic 
and lumbar spine on ___ revealed collapse of T12 with 
retropulsion and canal stenosis at this level as well as 
previous known compression fractures.  MRI of spine performed 
for further investigation revealed canal narrowing in the same 
area concerning for cord compression, however based on 
examination there was no need for urgent radiation/oncology. 
Patient underwent elective spinal fusion and underwent a 
corpectomy and anterior fusion on ___.  The procedure was 
complicated by significant blood loss secondary to extensive 
epidural bleeding encountered during surgery.  Patient was 
transferred to the ICU intubated for close monitoring of 
blood/fluid volume.  He was transfused with multiple units of 
pRBCs.  On ___, he returned to the operating room for an 
uncomplicated posterior fusion scheduled as part of a staged 
2-part procedure. A hemovac drain that was placed at the time of 
surgery was removed on POD#2. A TLSO brace was fitted for 
comfort and support. Physical therapy was consulted for 
mobilization. On ___, patient was transfused another 2 units 
of pRBCs secondary to post-operative blood loss anemia. At the 
time of discharge H/H was stable for approximately 1 week. 
Patient's pain was well-controlled, initially on a PCA, and 
later on oral pain medications. He will require follow-up with 
Dr. ___ Orthopedics/Spine at ___ 
___ within 2 weeks following discharge from the hospital. 

# Sepsis ___ Healthcare Associated Pneumonia:  Several days 
post-operatively, patient developed worsening hypoxia, 
tachycardia, and hypotension consistent with sepsis.  A CXR 
revealed a worsening RLL infiltrate consistent with HCAP (given 
prolonged hospital course) as well as a large left-sided pleural 
effusion.  Patient was started on vancomycin/cefepime for HCAP.  
Given worsening hypoxia, patient underwent a thoracentesis and 
chest tube placement by IP with drainage of 800cc exudative 
fluid.  The chest tube was removed one day later. He initially 
required supplemental O2, however, after drainage of the left 
pleural effusion and completing 8 day antibiotic course of 
vancomycin/cefepime for HCAP (end date ___, he was weaned 
off oxygen and was saturating well on room air. Pleural fluid 
culture and specimens revealed no growt. He will require 
follow-up appointment with Dr. ___ at ___ 
___ within ___ weeks. This  is scheduled 
for ___ at 9:30 AM. 

# C. diff/ileus:  Patient developed worsening 
constipation/abdominal distension in the setting of narcotic 
pain medications.  He also began to report bloody bowel 
movements.  C. diff returned positive and patient was started on 
PO vancomycin at 125 mg PO Q6H. Patient continued to have absent 
of bowel movements. A KUB revealed colonic distension but no 
evidence of toxic megacolon.  It was unclear if his ileus was 
the result of C. diff or due to opioid-induced constipation. 
Infectious Disease was curbsided who believed given his 
immunosuppression s/p chemotherapy, multiple myeloma, and 
antibiotics for HCAP as he should be treated for 
severe/complicated C. difficile. Per curbside with Infectious 
Disease C. diff treatment was uptitrated to include IV 
metronidazole, and PO vancomycin was increased to 500 mg PO Q6H. 
Although patient had abdominal distension, patient appeared in 
no acute distress, with normal WBC, absent fever, and lack of 
abdominal tenderness. Although abdomen was distended, non-tender 
to palpation and patient did not appear septic. Patient 
continued to have abdominal distension, decreased bowel sounds 
consistent with ileus, however, given immunosuppression decision 
was made for Gastroenterology consultation for further 
evaluation/management. Gastroenterolgoy believed the abdominal 
distension was likely related to ileus (secondary to his acute 
illness, and narcotics for back pain). They recommended 
downtitrating narcotics and increasing bowel regimen. After 
decrease in narcotics and increase in bowel regimen, patient 
began developing normal bowel movements with resolution of his 
abdominal distension. Per GI, patient's treatment for c. 
difficile was downtitrated with discontinuation of IV 
metronidazole, and decrease of vancomycin dose from 500 gm PO 
Q6H to 125 mg PO Q6H. He is set to continue antibiotic treatment 
for c. difficile infection with end date ___. Pain 
medication regimen at the time of discharge: Morphine SR 15 mg 
PO Q12H, hydromorphone 2 mg PO Q6H:PRN pain. Bowel regimen at 
the time of discharge: docusate sodium 100 mg PO BID, senna 8.6 
mg PO BID:PRN constipation. 

Of note, during hospitalization, patient received 
methylnaltrexone x 2 given concern of opioid induced 
ileus/constipation.       
 
# Multiple Myeloma: Patient was diagnosed in ___ after 
presenting with spinal compression fractures as described above. 
 Work-up revealed IgA lambda on SPEP with M spike. He 
established care with Atrius Oncology (Dr. ___ and 
had started treatment with Velcade and Revlimid as an outpatient 
prior to admission.  His CBC was trended during his 
hospitalization and remained stable.  Radiation Oncology was 
consulted who did not think there was any indication for 
Radiation on the spine.  Both Bortezomib and lenalidomide were 
continued while inpatient prior to surgery. Bortezomib cycle #1 
completed ___. Lenalidomide course completed ___. 
Received pamidronate 60 mg IV on ___. He remained on DVT 
prophylaxis and will need to be transitioned to ASA 81mg when 
transitioned off.  He will need outpatient follow up with Dr. 
___ discharge.

After discusison with Dr. ___ was made to 
follow-up with chemotherapy regimen as noted below. This should 
occur once he is eating and moving his bowels. Before starting 
this cycle please call Dr. ___ (Hematology/Oncology at 
___. Her office number is ___. Her pager 
number is ___. 
21 day cycle:
Day 1: Revlimid 25 mg PO, Velcade 1.3mg/m2 SC, Decadron 10 mg PO
Day 2: Revlimid 25 mg PO
Day 3: Revlimid 25 mg PO
Day 4: Revlimid 25 mg PO, Velcade 1.3mg/m2 SC, Decadron 10 mg PO
Day 5: Revlimid 25 mg PO
Day 6: Revlimid 25 mg PO
Day 7: Revlimid 25 mg PO
Day 8: Revlimid 25 mg PO, Velcade 1.3mg/m2 SC, Decadron 10 mg PO
Day 9: Revlimid 25 mg PO
Day 10: Revlimid 25 mg PO
Day 11: Revlimid 25 mg PO, Velcade 1.3mg/m2 SC, Decadron 10 mg 
PO
Day 12: Revlimid 25 mg PO
Day 13: Revlimid 25 mg PO
Day 14: Revlimid 25 mg PO
Days ___: No chemo, no steroids

# Coping/Anxiety: Given recent diagnosis of multiple myeloma 
(diagnosed ___ by bone marrow biopsy), patient has had 
difficulty coping and has had incrased anxiety. He was seen by 
social work at ___, also continued on lorazepam 0.5 mg PO 
Q8H:PRN anxiety and mirtazapine 15 mg PO QHS insomnia/anxiety.  
 
TRANSITIONAL ISSUES
===================
# Vancomycin Dosing: Vancomycin 125 mg PO Q6H with end date 
___. 
# Activity: Will rquire TLSO Brace with activities. Will require 
TLSO Brace in supine position if patient planning on getting up 
from a laying position. 
# Hematuria: Patient noted to have 22 RBC on urinalysis. Will 
require outpatient urinalysis to assess for resolution of 
hematuria. 
# Pt should be started on ASA 81mg when plan to stop DVT 
prophylaxis given increased clotting risk
# Please contact Dr. ___ 
___ to discuss re-starting chemotherapy: Her office 
number is ___. Her pager number is ___.   
# Needs outpatient EGD with biopsy to further evaluate for 
celiac disease given h/o equivocal testing after recovery from 
surgery.
# LFT's mildly elevated during hospitalization: ALT 42, AST 41. 
Consider repeat LFT's as outpatient. 
# Code Status: Full Code (confirmed)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q8H:PRN pain 
2. Docusate Sodium 100 mg PO BID 
3. Polyethylene Glycol 17 g PO DAILY:PRN constpation 
4. Senna 8.6 mg PO BID:PRN constipation 
5. Vitamin D 50,000 UNIT PO 1X/WEEK (TH) 
6. OxycoDONE (Immediate Release)  5 mg PO Q3H:PRN pain 
7. Ondansetron 8 mg PO Q8H:PRN nausea 
8. OxyCODONE SR (OxyconTIN) 20 mg PO Q12H 
9. Lenalidomide 25 mg PO DAILY 
10. Lactulose 15 mL PO Q6H:PRN constipation 
11. Lorazepam 0.5 mg PO Q8H:PRN anxiety 
12. Diazepam 5 mg PO Q6H:PRN back spasm 

 
Discharge Medications:
1. Lorazepam 0.5 mg PO Q8H:PRN anxiety 
2. HYDROmorphone (Dilaudid) 2 mg PO Q6H:PRN pain 
3. Morphine SR (MS ___ 15 mg PO Q12H 
4. Aspirin 81 mg PO DAILY 
5. Lenalidomide 25 mg PO REFER TO DC WORKSHEET 
6. Bortezomib 1.3 mg SC REFER TO DC WORKSHEET 
7. Dexamethasone 10 mg PO REFER TO DC WORKSHEET 
8. Acetaminophen 1000 mg PO Q8H 
9. Docusate Sodium 100 mg PO BID 
10. Senna 8.6 mg PO BID:PRN constipation 
11. Vitamin D 50,000 UNIT PO 1X/WEEK (TH) 
12. Acyclovir 400 mg PO Q12H 
13. Calcium Carbonate 500 mg PO BID 
14. Heparin 5000 UNIT SC BID 
15. Mirtazapine 15 mg PO QHS insomnia/anxiety 
16. Ondansetron 4 mg IV Q8H:PRN nausea 
17. Sarna Lotion 1 Appl TP QID:PRN itching 
18. Simethicone 40-80 mg PO QID:PRN gas 
19. Vancomycin Oral Liquid ___ mg PO Q6H 
PLEASE CONTINUE UNTIL ___.  
20. Polyethylene Glycol 17 g PO DAILY:PRN constpation 
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: 
- T12 compression fracture with retropulsion and cord 
compression
- Acute perioperative blood loss anemia (19 units PRBC)
- ___ acquired pneumonia
- Left sided uncomplicated parapneumonic effusion
- Presumptive C. difficile colitis
- Multifactorial ileus
- Benign left renal cyst (confirmed by ultrasound)

Secondary:
- IgA lambda multiple myeloma
- IBS; constipation predominant
- Borderline positive TTG of unknown significance

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ 
because you were having back pain. While you were here you had 
several imaging studies including an MRI of your spine that 
showed one of your disks was bulging into the area of your 
spinal cord. You also had multiple compression fractures of your 
back. As we discussed, these fractures were a result of 
weakening of your bones from your multiple myeloma. You were 
initially followed by the Oncology team and continued treatment 
before surgery. You were then transferred to the Orthopedic 
Surgery service for your back surgery. You underwent the back 
surgery.

During hospitalization, you experienced an infection of the 
lungs called healthcare associated pneumonia. You were treated 
with antibiotics for this infection. You also had a chest tube 
to drain inflammation from the lung. This helped improve your 
symptoms and your breathing improved. 

You were also noted to have abdominal distension during 
hospitalization associated with bloody bowel movements. You were 
tested for an infection of your stool which came back positive 
for C. difficile. You were treated for the C. difficile 
infection with an antibiotic called vancomycin. Your bowel 
regimen was also increased to help you move your bowels. These 
treatment regimens improved your abdominal discomfort. Please 
continue to take vancomycin 125 mg PO EVERY 6 HOURS with the end 
date on ___. 

You will have follow-up appointments with your 
Hematologist/Oncologist Dr. ___, surgeon Dr. ___ 
___, and the lung doctors as noted below.

Please note when attempting to get out of bed, you will need to 
put on the TLSO brace while laying down before getting out of 
bed. You will also require the TLSO brace when walking.

Sincerely, 
Your ___ Team
 
Followup Instructions:
___